US05891909
b) 3-[3-(5-Chloro-2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propionaldehyde
To a cooled (0° C.) solution of 3-[3-(5-chloro-2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propanol (3.32 g, 8.58 mmol), N,N-diisopropylethylamine (3.14 mL, 18.0 mmol), and anhydrous dimethyl sulfoxide (1.83 mL, 25.7 mmol) in anhydrous dichloromethane (20 mL) under nitrogen was added sulfur trioxide pyridine complex (2.73 g, 17.1 mmol) portionwise over 23 minutes. The solution was stirred at 0° C. for 1 hour then quenched with 5% w/v aqueous citric acid (200 mL, 48 mmol). The mixture was extracted with diethyl ether (250 mL). The aqueous layer was extracted with diethyl ether (2×100 mL), and the combined organic extracts were washed with pH 7 buffer (100 mL) and brine (100 mL). The organic layer was dried over Na2SO4, filtered, and evaporated. Crude product was purified by flash column chromatography through silica gel (50% to 70% diethyl ether in hexane) to give the title compound as a gold oil (2.34 g, 71%). 1H-NMR (300 MHz, CDCl3) δ 9.81 (t, 1 H, J=1.5 Hz), 7.79 (d, 1 H, J=2.7 Hz), 7.54 (dd, 1 H, J=2.7, 8.9 Hz), 7.01 (d, 1 H, J=8.9 Hz), 6.54-6.60 (m, 1 H), 6.52-6.53 (m, 1 H), 6.43-6.44 (m, 1 H), 4.19 (t, 2 H, J=6.1 Hz), 3.99 (s, 3 H), 2.85 (td, 2 H, J=1.5, 6.1 Hz), 2.25 (d, 3 H, J=0.5 Hz). Mass spectrum (MALDI-TOF, α-cyano4- hydroxycinnamic acid matrix) calcd. for C17H17ClO6S: 407.0 (M+Na). Found: 407.0.

reactant | 3-[3-(5-chloro-2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propanol | 8.58 mmol, 3.32 g | ClC=1C=CC(=C(C1)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C)OC | C17H19ClO6S
reactant | N,N-diisopropylethylamine | 18.0 mmol, 3.14 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 25.7 mmol, 1.83 mL | CS(=O)C | C2H6OS
reactant | citric acid | 48 mmol, 200 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-[3-(5-Chloro-2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propionaldehyde | 2.34 g, 71% | ClC=1C=CC(=C(C1)S(=O)(=O)OC=1C=C(OCCC=O)C=C(C1)C)OC | C17H17ClO6S
